US04535183
3-Methoxy-4-n-propoxyphenol (19.62 g, 0.108 M) was added in portions to a stirred mixture of dihydropyran (15.7 ml) and concentrated hydrochloric acid (3 drops) under nitrogen such that the temperature did not rise above 50° C. The solution was then stirred at room temperature (3 hr). The reaction mixture was diluted with ether and washed with water, 2 N sodium hydroxide solution, water, dried (sodium sulphate) and evaporated to give 3-methoxy-4-n-propoxyphenol tetrahydropyranyl ether.

reactant | 3-Methoxy-4-n-propoxyphenol | 0.108 M, 19.62 g | COC=1C=C(C=CC1OCCC)O | C10H14O3
reactant | dihydropyran | 15.7 ml | O1CCCC=C1 | C5H8O
catalyst | hydrochloric acid | 3 drops | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 3-methoxy-4-n-propoxyphenol tetrahydropyranyl ether | O1C(CCCC1)OC1=CC(=C(C=C1)OCCC)OC | C15H22O4
